US07056918B2
1,3-Dimethyl-2-oxo-2,3-dihydro-1H-benzoimidazole-5-carbaldehyde (2.48 g, 13.1 mmol, obtained using the same procedure used for 1,3-Diethyl-2-oxo-2,3-dihydro-1H-benzoimidazole-5-carbaldehyde) in n-butanol (25 mL) was treated with □-alanine (298.0 mg) and nitroethane (1.85 mL). The mixture was heated to 115° C. for 4 hours, more nitroethane (0.5 mL) was added and the heating was continued for 2 hours. The reaction was allowed to cool, was filtered and washed with ether then dried to give 1,3-Dimethyl-5-(2-nitro-propenyl)-1,3-dihydro-benzoimidazol-2-one (2.229 g).

reactant | 1,3-Diethyl-2-oxo-2,3-dihydro-1H-benzoimidazole-5-carbaldehyde | C(C)N1C(N(C2=C1C=CC(=C2)C=O)CC)=O | C12H14N2O2
reactant | alanine | 298.0 mg | N[C@@H](C)C(=O)O | C3H7NO2
reactant | nitroethane | 1.85 mL | [N+](=O)([O-])CC | C2H5NO2
reactant | nitroethane | 0.5 mL | [N+](=O)([O-])CC | C2H5NO2
solvent | n-butanol | 25 mL | C(CCC)O | C4H10O
product | 1,3-Dimethyl-5-(2-nitro-propenyl)-1,3-dihydro-benzoimidazol-2-one | 2.229 g | CN1C(N(C2=C1C=CC(=C2)C=C(C)[N+](=O)[O-])C)=O | C12H13N3O3
